US09102684B2
5-(3,5-Dimethyl-isoxazol-4-yl)-4-methyl-3-phenyl-3H-isobenzofuran-1-one
A mixture of 5-Bromo-4-methyl-3-phenyl-3H-isobenzofuran-1-one (100 mg, 0.33 mmol), 3,5-dimethylisoxazole-4-boronic acid (93 mg, 0.66 mmol, 2 eq.), 1N Na2CO3 (0.66 mL, 0.66 mmol) and Pd(PPh3)4 (62 mg, 0.033 mmol, 0.1 eq.) in dioxane (20 mL) is stirred at 90° C. for 16 hours. After cooled to room temperature, the mixture is evaporated in vacuo. The residue is purified by preparative-TLC using a petrol ether ethyl acetate mixture to afford the desired compound as a white solid.

reactant | 5-Bromo-4-methyl-3-phenyl-3H-isobenzofuran-1-one | 0.33 mmol, 100 mg | BrC=1C(=C2C(OC(C2=CC1)=O)C1=CC=CC=C1)C | C15H11BrO2
reactant | 3,5-dimethylisoxazole-4-boronic acid | 0.66 mmol, 93 mg, 2 eq. | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | Na2CO3 | 0.66 mmol, 1N, 0.66 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.033 mmol, 62 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-4-methyl-3-phenyl-3H-isobenzofuran-1-one | CC1=NOC(=C1C=1C(=C2C(OC(C2=CC1)=O)C1=CC=CC=C1)C)C | C20H17NO3
